US07608627B2
To a suspension of 1H-pyrrolo[2,3-c]pyridine (700 mg, 5.9 mmol) in tetrahydrofuran (14.0 mL) was added lithium diisopropylamide (2.9 mL of a 2 M solution in THF/heptane, 5.9 mmol) at −78° C. After 0.5 h, benzenesulfonyl chloride (0.79 mL, 6.2 mmol) was added dropwise. The mixture was allowed to slowly warm to ambient temperature overnight. The reaction mixture was poured into 2% aq NaHCO3 (30 mL) and extracted with EtOAc (2×25 mL). The combined extracts were washed with H2O (20 mL) and saturated NaCl (20 mL), dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography (silica gel, 1:1 hexanes/EtOAc) gave 1-(phenylsulfonyl)-1H-pyrrolo[2,3-c]pyridine (1.2 g, 80%): 1H NMR (500 MHz, DMSO-d6) δ 6.94 (1H, d, J=6.0 Hz), 7.59-7.66 (3H, m), 7.70-7.75 (1H, m), 8.07-8.10 (3H, m), 8.38 (1H, d, J=8.8 Hz), 9.23 (1H, s); ESI MS m/z 259 [C13H10N2O2S+H]+.

reactant | 1H-pyrrolo[2,3-c]pyridine | 5.9 mmol, 700 mg | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | benzenesulfonyl chloride | 6.2 mmol, 0.79 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 14.0 mL | O1CCCC1 | C4H8O
solvent | THF heptane | C1CCOC1.CCCCCCC
product | 1-(phenylsulfonyl)-1H-pyrrolo[2,3-c]pyridine | 1.2 g, 80% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=CN=CC2 | C13H10N2O2S
